US09085577B2
[2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isopropyl-amine (D51)
Bis(pinacolato)diboron (2.816 g, 11.09 mmol) and potassium acetate (2.512 g, 25.593 mmol) were added to a solution of N-(4-bromo-2-fluorophenyl)-N-isopropylamine [CAS 1019541-29-7] (1.98 g, 8.531 mmol) in 1,4-dioxane (28 ml). The mixture was degassed and then [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II)—complex with DCM (1:1) (0.376 g, 0.512 mmol) was added. The reaction mixture was heated at 95° C. overnight. After cooling to r.t., the reaction mixture was filtered through diatomaceous earth. The filtrate was washed with EtOAc and evaporated in vacuo. The crude product was purified by column chromatography (silica gel; Heptane/DCM from 100/0 to 0/100 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D51 (1.44 g, 56%)

reactant | Bis(pinacolato)diboron | 11.09 mmol, 2.816 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 25.593 mmol, 2.512 g | C(C)(=O)[O-].[K+]
reactant | N-(4-bromo-2-fluorophenyl)-N-isopropylamine | 8.531 mmol, 1.98 g | BrC1=CC(=C(C=C1)NC(C)C)F | C9H11BrFN
reactant | DCM | 0.512 mmol, 0.376 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 28 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-isopropyl-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(C)C | C15H23BFNO2
